US09340554B2
Synthesis of 1-N-[6-(propan-2-yl)thieno[2,3-d]pyrimidin-4-yl]cyclohexane-1,4-diamine
To a 100-mL round-bottom flask was added a solution of commercially available 4-chloro-6-(propan-2-yl)thieno[2,3-d]pyrimidine (3 g, 14.10 mmol, 1.00 equiv) in N,N-dimethylformamide (30 mL), TEA (4.3 g, 42.49 mmol, 3.01 equiv), and cyclohexane-1,4-diamine (9.6 g, 84.07 mmol, 5.96 equiv). The resulting solution was stirred overnight at room temperature. The reaction was then quenched by the addition of 100 mL of water. The resulting solution was extracted with 3×100 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×100 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 3.5 g (85%) of 1-N-[6-(propan-2-yl)thieno[2,3-d]pyrimidin-4-yl]cyclohexane-1,4-diamine as a yellow oil.

reactant | 4-chloro-6-(propan-2-yl)thieno[2,3-d]pyrimidine | 14.10 mmol, 3 g, 1.00 equiv | ClC=1C2=C(N=CN1)SC(=C2)C(C)C | C9H9ClN2S
reactant | cyclohexane-1,4-diamine | 84.07 mmol, 9.6 g, 5.96 equiv | C1(CCC(CC1)N)N | C6H14N2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-N-[6-(propan-2-yl)thieno[2,3-d]pyrimidin-4-yl]cyclohexane-1,4-diamine | CC(C)C1=CC2=C(N=CN=C2NC2CCC(CC2)N)S1 | C15H22N4S
